US06162819
1-Benzyl-3-(5-hydroxymethyl-2-furyl)indazole (starting material):
2.06 g (54.6 mmol) of lithium aluminum hydride were initially charged in 250 ml of absolute THF, and a solution of 18.8 g (54.6 mmol) of 1-benzyl-3-(5-ethoxycarbonyl-2-furyl)indazole in 250 ml of THF was added dropwise. After 45 min the mixture was admixed with 25% strength potassium carbonate solution and stirred at RT for 30 min and the precipitate was filtered off with suction and washed with THF. The combined organic phases were concentrated using a rotary evaporator and the residue was recrystallized from isopropanol. This gave 11.0 g (67%) of the title compound. m.p.: 113-114° C.

reactant | lithium aluminum hydride | 54.6 mmol, 2.06 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-benzyl-3-(5-ethoxycarbonyl-2-furyl)indazole | 54.6 mmol, 18.8 g | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C=1OC(=CC1)C(=O)OCC | C21H18N2O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 1-Benzyl-3-(5-hydroxymethyl-2-furyl)indazole | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C=1OC(=CC1)CO | C19H16N2O2
